US07357991B2
(2) Synthesis of 2-(2-phenyl-2-propyl)-9,10-bis(4-(2,2-diphenylvinyl)-phenyl)anthracene (Compound (A21))
2-(2-Phenyl-2-propyl)-9,10-bis(4-(2,2-diphenylvinyl)phenyl)-9,10-dihydro-9,10-dihydroxyanthracene (5.7 g, 6.7 mmole), potassium iodide (3.3 g, 20 mmole) and sodium phosphinate monohydrate (1.1 g, 10 mmole) were dissolved into acetic acid (50 ml), and the resultant solution was stirred at 100° C. The reaction mixture was diluted with water (50 ml) and treated by extraction with toluene (300 ml). The organic layer was washed with a saturated aqueous solution of sodium chloride (50 ml) and dried with magnesium sulfate. After the solvent was removed by distillation, the obtained product was purified in accordance with the column chromatography (silica gel; hexane+30% dichloromethane), and a light yellow solid was obtained (4.5 g; 82%). The obtained product was identified to be Compound (A21) by the measurements in accordance with 1H-NMR and FD-MS.

reactant | 2-(2-Phenyl-2-propyl)-9,10-bis(4-(2,2-diphenylvinyl)phenyl)-9,10-dihydro-9,10-dihydroxyanthracene | 6.7 mmole, 5.7 g | C1(=CC=CC=C1)C(C)(C)C1=CC=2C(C3=CC=CC=C3C(C2C=C1)(O)C1=CC=C(C=C1)C=C(C1=CC=CC=C1)C1=CC=CC=C1)(O)C1=CC=C(C=C1)C=C(C1=CC=CC=C1)C1=CC=CC=C1 | C63H50O2
reactant | potassium iodide | 20 mmole, 3.3 g | [I-].[K+]
reactant | sodium phosphinate monohydrate | 10 mmole, 1.1 g | O.[PH2]([O-])=O.[Na+]
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-phenyl-2-propyl)-9,10-bis(4-(2,2-diphenylvinyl)-phenyl)anthracene | C1(=CC=CC=C1)C(C)(C)C1=CC2=C(C3=CC=CC=C3C(=C2C=C1)C1=CC=C(C=C1)C=C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C=C(C1=CC=CC=C1)C1=CC=CC=C1 | C63H48
